US06207857B1
a) Succinic acid 3,7-dimethyl-oct-6-enyl ester 3-(3-isopropyl-phenyl)-but-1-enyl ester
A solution of 7.60 g acetic acid 3-(3-isopropyl-phenyl)-but-1-enyl ester in 50 ml of THF was cooled to −70° C. A solution of 5.00 g potassium-tert-butoxide in 50 ml of THF was added at 70° C. and the resulting reaction mixture was stirred for 2 hours at the same temperature. 11.20 g 3-chlorocarbonyl-propionic acid 3,7-dimethyl-oct-6-enyl ester was then dropped in and the reaction mixture was stirred for another 2 hours at −70° C. Then the reaction mixture was diluted with ether, washed with saturated NaHCO3 and brine. The organic phase was dried, filtered and evaporated to dryness. The residue was purified by chromatography to yield 7.10 g of a yellow oil.

reactant | acetic acid 3-(3-isopropyl-phenyl)-but-1-enyl ester | 7.60 g | C(C)(C)C=1C=C(C=CC1)C(C=COC(C)=O)C | C15H20O2
reactant | potassium-tert-butoxide | 5.00 g | CC(C)([O-])C.[K+]
reactant | 3-chlorocarbonyl-propionic acid 3,7-dimethyl-oct-6-enyl ester | 11.20 g | CC(CCOC(CCC(=O)Cl)=O)CCC=C(C)C | C14H23ClO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | Succinic acid 3,7-dimethyl-oct-6-enyl ester 3-(3-isopropyl-phenyl)-but-1-enyl ester | 7.10 g | C(C)(C)C=1C=C(C=CC1)C(C=COC(CCC(=O)OCCC(CCC=C(C)C)C)=O)C | C27H40O4
